US07282519B2
14b. (4-Chloro-6-((2-furylmethyl)amino)-3-sulfamoylphenyl)-N-(2-hydroxyethyl)carboxamide
To furosemide (1.013 g, 3.0627 mmol) in DMF (3 mL) was added EDAC (608.3 mg, 3.173 mmol) in dichloromethane (3 mL) and then ethanolamine (185 μL, 3.065 mmol). The reaction solution was stirred at ambient temperature for 3 hours, and concentrated to dryness under high vacuum. The crude product was treated with water, and the resultant gum collected and chromatographed on silica gel eluting with methanol:dichloromethane (1:20) to give the title compound (476 mg, 42% yield). Mp 183-185° C. 1H NMR (300 MHz, CD3OD) δ8.17 (s, 1H), 7.45 (m, 1H), 6.94 (s, 1H), 6.37-6.36 (m, 1 H), 6.32-6.31 (m, 1H), 4.44 (s, 2H), 3.70-3.66 (m, 2H), 3.32-3.29 (m, 2H). 13C NMR (75 MHz, CD3OD) δ 170.4, 153.0, 152.7, 143.6, 136.7, 131.3, 127.5, 114.8, 114.4, 111.4, 108.5, 61.5, 43.2, 40.7. LRMS (APIMS) m/z 374(MH+).

reactant | furosemide | 3.0627 mmol, 1.013 g | C=1C=C(OC1)CNC2=CC(=C(C=C2C(=O)O)S(=O)(=O)N)Cl | C12H11ClN2O5S
reactant | EDAC | 3.173 mmol, 608.3 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | ethanolamine | 3.065 mmol, 185 μL | C(O)CN | C2H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (4-Chloro-6-((2-furylmethyl)amino)-3-sulfamoylphenyl)-N-(2-hydroxyethyl)carboxamide | 476 mg, 42% yield | ClC1=C(C=C(C(=C1)NCC=1OC=CC1)C(=O)NCCO)S(N)(=O)=O | C14H16ClN3O5S
